US07560558B2
Compound 14: N-[2-[(6,7-Dimethoxy-4-quinolyl)oxy]-5-methylphenyl]-N-phenylamine
4-(2-Amino-4-methylphenoxy)-6,7-dimethoxyquinoline (52 mg) was dissolved in triethylamine/N,N-dimethylformamide (0.5 ml/2.5 ml), and phenylboronic acid (100 mg) and copper acetate (250 mg) were added to the solution which was then stirred at room temperature overnight. The reaction solution was filtered, and the solvent was removed therefrom by distillation under the reduced pressure. Water was added to the residue, and the mixture was extracted with ethyl acetate. Next, the ethyl acetate layer was then washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using acetone-chloroform to give the title compound (50 mg, yield 76%).

reactant | 4-(2-Amino-4-methylphenoxy)-6,7-dimethoxyquinoline | 52 mg | NC1=C(OC2=CC=NC3=CC(=C(C=C23)OC)OC)C=CC(=C1)C | C18H18N2O3
reactant | phenylboronic acid | 100 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | triethylamine N,N-dimethylformamide | 0.5 ml | C(C)N(CC)CC.CN(C=O)C
catalyst | copper acetate | 250 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | N-[2-[(6,7-Dimethoxy-4-quinolyl)oxy]-5-methylphenyl]-N-phenylamine | 50 mg, yield 76% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)C)NC1=CC=CC=C1 | C24H22N2O3
